US07572820B2
A. Methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]-2-methylpropanoate
To a solution of methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]propanoate (0.065 g, 0.209 mmol) in THF (1 mL) was added iodomethane (0.59 g, 4.18 mmol), followed by dropwise addition of t-BuOK (1M in THF, 0.63 mL, 6.3 mmol). After 10 min, the mixture was partitioned between EtOAc and 0.1N HCl. The organic phase was washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-25% EtOAc-hexanes gradient) to afford the title compound: MS (ES) m/z 325 (M+1).

reactant | methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]propanoate | 0.209 mmol, 0.065 g | C(#N)C=1C(=C2C=C(N(C2=CC1)C(C(=O)OC)C)C)C(F)(F)F | C15H13F3N2O2
reactant | iodomethane | 4.18 mmol, 0.59 g | IC | CH3I
reactant | t-BuOK | 6.3 mmol, 1M, 0.63 mL | CC(C)(C)[O-].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]-2-methylpropanoate | C(#N)C=1C(=C2C=C(N(C2=CC1)C(C(=O)OC)(C)C)C)C(F)(F)F | C16H15F3N2O2
